US07576094B2
To a solution of 5,7-diethylspiro[chroman-2,1′-cyclobutan]-6-ol (900 mg) in dichloromethane (5 mL) was added titanium tetrachloride (670 mg, 0.4 mL) and dichloromethyl methyl ether (505 mg, 0.39 mL). The solution was stirred at room temperature for 5 hours. The reaction was quenched using diluted hydrochloric acid. Work up and chromatography (silica gel, ethyl acetate in hexane 5%) gave 680 mg of 5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutane]-8-carbaldehyde.

reactant | 5,7-diethylspiro[chroman-2,1′-cyclobutan]-6-ol | 900 mg | C(C)C1=C2CCC3(CCC3)OC2=CC(=C1O)CC | C16H22O2
reactant | dichloromethyl methyl ether | 0.39 mL, 505 mg | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 0.4 mL, 670 mg | [Ti](Cl)(Cl)(Cl)Cl
product | 5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutane]-8-carbaldehyde | 680 mg | C(C)C1=C2CCC3(CCC3)OC2=C(C(=C1O)CC)C=O | C17H22O3
